US04582837
2-(2'-Methoxy-4'-methylthiomethyl-phenyl)-imidazo[4,5-c]pyridine
Prepared analogously to Example 14 from 3,4-diaminopyridine and 2-methoxy-4-methylthiomethyl-benzoic acid.

reactant | 3,4-diaminopyridine | NC=1C=NC=CC1N | C5H7N3
reactant | 2-methoxy-4-methylthiomethyl-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)CSC | C10H12O3S
product | 2-(2'-Methoxy-4'-methylthiomethyl-phenyl)-imidazo[4,5-c]pyridine | COC1=C(C=CC(=C1)CSC)C=1NC2=C(C=NC=C2)N1 | C15H15N3OS
